US04559349
14.7 g (0.05 mol) of 5-bromo-4-chloro-2-methoxybenzoic acid ethyl ester, 5.4 g (0.06 mol) of copper(I) cyanide and 8 ml of dimethylformamide are heated at 190° for three hours while stirring under a nitrogen atmosphere. After cooling, the reaction mixture is stirred well with 250 ml of methylene chloride and 250 ml of 2N hydrochloric acid. The insoluble portions are filtered off with suction and the layers are separated in a separating funnel. The methylene chloride solution is washed neutral with water and then concentrated by evaporation. 4-Chloro-5-cyano-2-methoxybenzoic acid ethyl ester is obtained as residue which, after recrystallisation from methylene chloride/hexane, melts at 102°-103°.

reactant | 5-bromo-4-chloro-2-methoxybenzoic acid ethyl ester | 0.05 mol, 14.7 g | C(C)OC(C1=C(C=C(C(=C1)Br)Cl)OC)=O | C10H10BrClO3
reactant | copper(I) cyanide | 0.06 mol, 5.4 g | [Cu]C#N
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 2N, 250 ml | Cl | ClH
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-5-cyano-2-methoxybenzoic acid ethyl ester | C(C)OC(C1=C(C=C(C(=C1)C#N)Cl)OC)=O | C11H10ClNO3
